US05547972
A mixture of 4'-chloroacetophenone (103.3 g), formamide (98%; 123 g) and formic acid (97%; 8.3 ml) was stirred and heated at 180° C. The water produced in the reaction was removed by distillation together with some of the starting acetophenone which was separated and returned to the reaction vessel. Formic acid (70 ml total) was added in small aliquots over 8 hours. The reaction mixture was cooled and exhaustively extracted with toluene. The combined toluene extracts were washed with water, dried, filtered and the filtrate evaporated. Concentrated hydrochloric acid (70 ml) was added to the residue and the mixture boiled under reflux for 1 hour. The mixture was cooled, extracted with toluene and the aqueous layer basified with aqueous sodium hydroxide (5M). The solution was steam distilled until 1.4 1 of distillate had been collected and the distillate was extracted with ethyl acetate. The combined ethyl acetate extracts were dried, filtered and the filtrate evaporated to give an oil which was distilled to give (±)-1-(4-chlorophenyl)ethylamine, b.p. 120°-122° C. (19 mmHg). A small portion of the distillate was dissolved in dry ether and an equal volume of saturated ethereal hydrogen chloride was added. The solid formed was collected by filtration and dried to give (±)-1-(4-chlorophenyl)ethylamine hydrochloride, m.p. 186°-189° C.

reactant | 4'-chloroacetophenone | 103.3 g | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | formamide | 123 g | C(=O)N | CH3NO
reactant | formic acid | 8.3 ml | C(=O)O | CH2O2
solvent | water | O | H2O
product | (±)-1-(4-chlorophenyl)ethylamine | ClC1=CC=C(C=C1)C(C)N | C8H10ClN
